US06777421B2
8-(2-phenoxy-benzyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one HCl Salt (Compound # 57)
To a mixture of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (291 mg, 1.26 mmol) and 2-phenoxybenzaldehyde (299 mg, 1.50 mmol) in 1,2-dichloroethane (25 mL) was added sodium triacetoxyborohydride (454 mg, 2.14 mmol). The resulting mixture was stirred at room temperature under nitrogen atmosphere for 20 h. The reaction mixture was then quenched with 1N aqueous NaHCO3 and extracted with CHCl3 (100 mL). The combined extracts were dried over Na2SO4, filtered and concentrated. The isolated solid was purified by flash chromatography on silica gel to yield the title compound as a free base.

reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.26 mmol, 291 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | 2-phenoxybenzaldehyde | 1.50 mmol, 299 mg | O(C1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C13H10O2
reactant | sodium triacetoxyborohydride | 2.14 mmol, 454 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
product | 8-(2-phenoxy-benzyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one HCl Salt | Cl.O(C1=CC=CC=C1)C1=C(CN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=CC=C1 | InChI=1S/C26H27N3O2.ClH/c30-25-26(29(20-27-25)22-10-3-1-4-11-22)15-17-28(18-16-26)19-21-9-7-8-14-24(21)31-23-12-5-2-6-13-23;/h1-14H,15-20H2,(H,27,30);1H
